US08664401B2
Step D) (+/−)-2-[(cis-4-{[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy]methyl}cyclohexyl)oxy]tetrahydro-2H-pyran
A solution of (+/−)-2-({cis-4-[(4-bromophenoxy)methyl]cyclohexyl}oxy)tetrahydro-2H-pyran (0.3 g, 0.812 mmol), bis(pinacolato)diborane (0.247 g, 0.974 mmol), potassium acetate (0.319 g, 3.25 mmol) and [1,1′-bis-(diphenylphosphino)ferrocene]-dichloropalladium (II) dcm complex (33.5 mg, 0.041 mmol) in 1,4-dioxane (10 mL) was heated to reflux. After 28 hours the reaction was concentrated. The residue was partitioned between ether and water, an emulsion was removed by filtration. The layers in the filtrate were separated. The organic layer was washed with water (2×) then brine (1×). The organic layer was dried (Na2SO4), filtered and concentrated. Purification on a Biotage SNAP cartridge Kp-sil 10 g column (hexanes/ethyl acetate 95:5) afforded the title compound as a white solid (190 mg, 56%). 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 1.30-1.38 (m, 12H) 1.39-1.78 (m, 11H) 1.78-1.97 (m, 4H) 3.44-3.56 (m, 1H) 3.84 (dd, J=6.74, 1.66 Hz, 2H) 3.88-4.00 (m, 2H) 4.61-4.75 (m, 1H) 6.85-6.94 (m, 2H) 7.67-7.80 (m, 2H)

reactant | (+/−)-2-({cis-4-[(4-bromophenoxy)methyl]cyclohexyl}oxy)tetrahydro-2H-pyran | 0.812 mmol, 0.3 g | BrC1=CC=C(OC[C@H]2CC[C@H](CC2)OC2OCCCC2)C=C1 | C18H25BrO3
reactant | bis(pinacolato)diborane | 0.974 mmol, 0.247 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 3.25 mmol, 0.319 g | C(C)(=O)[O-].[K+]
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
catalyst | [1,1′-bis-(diphenylphosphino)ferrocene]-dichloropalladium (II) | Cl[Pd]Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | (+/−)-2-[(cis-4-{[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy]methyl}cyclohexyl)oxy]tetrahydro-2H-pyran | 190 mg, 56% | CC1(OB(OC1(C)C)C1=CC=C(OC[C@H]2CC[C@H](CC2)OC2OCCCC2)C=C1)C | C24H37BO5
